US07662771B2
N-(2-ethynyl-phenyl)-acetamide
Add a solution of potassium hydroxide (1.62 g, 28.8 mmol) in water (100 mL) dropwise to a rapidly stirred solution of N-(2-trimethylsilanylethynyl-phenyl)-acetamide (4.44 g, 19.2 mmol) in methanol (50 mL) and stir at room temperature for 4 hours. Concentrate, add brine to residue and extract with EtOAc (×3). Dry combined organic layers over MgSO4, concentrate, add CHCl3 and concentrate to get 2.82 g light yellow solid. Purify the residue by flash chromatography on silica gel eluting with 0-30% EtOAc/hexanes to afford the title compound (2.56 g, 84%). MS (IS) 160 (M+1)+.

reactant | potassium hydroxide | 28.8 mmol, 1.62 g | [OH-].[K+]
reactant | N-(2-trimethylsilanylethynyl-phenyl)-acetamide | 19.2 mmol, 4.44 g | C[Si](C#CC1=C(C=CC=C1)NC(C)=O)(C)C | C13H17NOSi
solvent | water | 100 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | N-(2-ethynyl-phenyl)-acetamide | 2.56 g, 84% | C(#C)C1=C(C=CC=C1)NC(C)=O | C10H9NO
